US08198029B2
A solution of TBSCl (1.91 g, 12.67 mmol) was added to a solution of 2′-deoxyinosine (1.00 g, 3.96 mmol) and imidiazole (1.73 g, 25.34 mmol) in anhydrous DMF (3 mL) at 0° C. under nitrogen atmosphere. The reaction mixture was gradually warmed to room temperature and stirred for 12 hours. The mixture was then concentrated in vacuo, dissolved in CH2Cl2 (100 mL), washed twice with water (50 mL), dried over anhydrous Na2SO4, concentrated in vacuo, and purified by silica gel chromatography to yield 3′,5′-O-bis-tert-butyldimethylsilyl-2′-deoxyinosine dA.n9 (1.58 g, 83%) as a white powder.

reactant | TBSCl | 12.67 mmol, 1.91 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 2′-deoxyinosine | 3.96 mmol, 1.00 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O4
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3′,5′-O-bis-tert-butyldimethylsilyl-2′-deoxyinosine | [Si](C)(C)(C(C)(C)C)[C@@]1(C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(O)=NC=NC12)O | C22H40N4O4Si2
